* C:\users\methalabeywickrama\Documents\analogProject\spectrumAnalyzer\Filter + Env Detector\Filter_AP.asc
* Generated by LTspice 26.0.2 for Windows.
V§Input_Signal rf 0 PWL file=spectrum_input.txt
B1 vco 0 V=sin(2*pi*25e3*time + 2*pi*1000*idt(V(ctrl)))
V1 ctrl 0 {Vc}
B2 mix_out 0 V=V(vco)*V(rf)*2.5
X§U2 0 N006 N010 N002 N012 LT1124 ;§pnba In+)In-)V+)V-)OUT
X§U1 0 N014 N010 N002 IF_out_2 LT1124 ;§pnba In+)In-)V+)V-)OUT
X§U3 0 N008 N010 N002 N007 LT1124 ;§pnba In+)In-)V+)V-)OUT
R3 N006 mix_out 796k tol=1
R4 N007 N006 6.34k tol=1
R5 N012 N006 796k tol=1
R6 IF_out_2 N008 6.34k tol=1
R7 IF_out_2 N014 10k tol=1
R8 N014 N012 10k tol=1
C3 N012 N006 1n
C4 N008 N007 1n
V2 N010 0 5
V3 0 N002 5
X§U4 0 N003 N009 N001 N011 LT1124 ;§pnba In+)In-)V+)V-)OUT
X§U5 0 N013 N009 N001 IF_out_3 LT1124 ;§pnba In+)In-)V+)V-)OUT
X§U6 0 N005 N009 N001 N004 LT1124 ;§pnba In+)In-)V+)V-)OUT
R9 N003 mix_out 796k tol=1
R10 N004 N003 4.53k tol=1
R11 N011 N003 796k tol=1
R12 IF_out_3 N005 4.53k tol=0.1
R13 IF_out_3 N013 10k tol=1
R14 N013 N011 10k tol=1
C5 N011 N003 1n
C6 N005 N004 1n
V4 N009 0 5
V5 0 N001 5
X§U7 IF_out_2 N017 N015 N025 N018 LT1124 ;§pnba In+)In-)V+)V-)OUT
V6 N015 0 5
V7 0 N025 5
D1 N018 N017 D
C1 N017 0 10n
X§U8 N017 N021 N015 N025 N021 LT1124 ;§pnba In+)In-)V+)V-)OUT
X§U9 IF_out_3 N019 N016 N026 N020 LT1124 ;§pnba In+)In-)V+)V-)OUT
V8 N016 0 5
V9 0 N026 5
D2 N020 N019 D
C2 N019 0 10n
X§U10 N019 N024 N016 N026 N024 LT1124 ;§pnba In+)In-)V+)V-)OUT
R1 N019 0 100k
R2 N017 0 100k
R15 Ramp N023 6k
R16 N022 N027 124k
R17 N027 Ramp 10k
C7 N023 N022 0.01µ
V10 Va+ 0 10
V11 0 va- 10
X§U13 Ramp 0 Va+ va- N027 LT1632 ;§pnba In+)In-)V+)V-)OUT
X§U11 0 N022 Va+ va- N023 LT1124 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\users\methalabeywickrama\AppData\Local\LTspice\lib\cmp\standard.dio
* .tran 0 15m 0 10u
.options plotwinsize=0 numdgt=7
* .step param Vc -25 0 1
* Center = 25kHz\nBW = 200Hz
* Center = 35kHz\nBW = 200Hz
.tran 50m startup
.ic V(ramp)=1
.param Vc=0
* Library below included based on ModelFile attribute of instance X§U2, X§U1, X§U3, X§U4, X§U5, X§U6, X§U7, X§U8, X§U9, X§U10, X§U11 (C:\users\methalabeywickrama\AppData\Local\LTspice\lib\sym\OpAmps\LT1124.asy), X§U13 (C:\users\methalabeywickrama\AppData\Local\LTspice\lib\sym\OpAmps\LT1632.asy)
.lib LTC.lib
.backanno
.end
